US08703965B2
According to method B1, dichloroethane (1.36 mL) was added to a schlenk flask charged with N,N′-dimesitylformamidine (0.5 g, 1.78 mmol). The tube was evacuated until solvent began to bubble and then sealed and heated with stirring to 120° C. for 24 hours. The reaction mixture was then cooled, added to toluene (40 mL) and then brought to reflux. While still hot, the precipitate was collected by vacuum filtration, washed with toluene (5 mL) and dried in vacuo to afford 1,3-dimesitylimidazolinium chloride (0.3 g, 49%) as a light peach powder.

reactant | dichloroethane | 1.36 mL | ClC(C)Cl | C2H4Cl2
reactant | N,N′-dimesitylformamidine | 1.78 mmol, 0.5 g | C1(=C(C(=CC(=C1)C)C)NC=NC1=C(C=C(C=C1C)C)C)C | C19H24N2
product | 1,3-dimesitylimidazolinium chloride | 0.3 g, 49% | [Cl-].C1(=C(C(=CC(=C1)C)C)[NH+]1CN(CC1)C1=C(C=C(C=C1C)C)C)C | InChI=1S/C21H28N2.ClH/c1-14-9-16(3)20(17(4)10-14)22-7-8-23(13-22)21-18(5)11-15(2)12-19(21)6;/h9-12H,7-8,13H2,1-6H3;1H
